US08956555B2
Synthesis of Diisopropyl(trimethylsilylethynyl)silyl Bromide
Diisopropyl(trimethylsilylethynyl)silane (6.9 g, 33 mmol) was dissolved in dichloroethane (20 mL) in a round-bottom flask equipped with a stir bar and placed in an ice bath. N-Bromosuccinimide (36 mmol, 6.5 g) was added scoopwise over 30 minutes, and stirring was continued for 15 more minutes or until the solution began to turn bright orange. Solvent was removed using rotary evaporation, pentane was added to the resulting solid, and the remaining solid succinimide residues were removed by filtration. The pentane solution was again evaporated, the process repeated, and the pentane was removed to yield 8.6 g (29 mmol, 89%) of a product as a pale brown oil.

reactant | Diisopropyl(trimethylsilylethynyl)silane | 33 mmol, 6.9 g | C(C)(C)[SiH](C#C[Si](C)(C)C)C(C)C | C11H24Si2
reactant | N-Bromosuccinimide | 36 mmol, 6.5 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dichloroethane | 20 mL | ClC(C)Cl | C2H4Cl2
product | Diisopropyl(trimethylsilylethynyl)silyl Bromide | 29 mmol, 8.6 g, 89% | C(C)(C)[Si](C#C[Si](C)(C)C)(C(C)C)Br | C11H23BrSi2
